US08487109B2
4-Hex-1-ynyl-benzonitrile
This product was prepared from toluene-4-sulfonic acid 4-cyano-phenyl ester and 1-octyne following the general procedure for the Sonogashira cross-coupling process described above. Chromatography eluent: heptane/EtOAc 9:1; yield (100 mg, 95%); 1H NMR δ (CDCl3): 7.56 (d, J=8.61 Hz, 2H), 7.46 (d, J=8.62 Hz, 2H), 2.43 (t, J=7.44 Hz, 2H), 1.6 (p, J=7.37 Hz, 2H), 1.5-1.4 (m, 2H), 1.38-1.26 (m, 4H), 0.92 (t, J=7.36 Hz, 3H); LCMS m/z: 211.

reactant | toluene-4-sulfonic acid 4-cyano-phenyl ester | C(#N)C1=CC=C(C=C1)OS(=O)(=O)C1=CC=C(C=C1)C | C14H11NO3S
reactant | 1-octyne | C#CCCCCCC | C8H14
solvent | heptane EtOAc | CCCCCCC.CCOC(=O)C
product | 4-Hex-1-ynyl-benzonitrile | C(#CCCCC)C1=CC=C(C#N)C=C1 | C13H13N
